US04190579
Preparation of N-tert-butyl-2-carbomethoxyazetidine
The procedure of Cromwell described in J. Heterocyclic Chem. 6: 435 (1969) and 5: 309 (1968) was followed for the preparation of this ester. To a 200 ml round bottom flask was added 5.20 g (0.02 mol) methyl 2,4-dibromobutyrate, 80 ml acetonitrile and 4.69 g (0.06 mol) of t-butylamine. After stirring at room temperature for 5 minutes, heat was applied and the temperature raised to and maintained at reflux for 24 hours. The yellowish mixture was cooled to room temperature and filtered. The filtrate was concentrated in vacuo, giving a yellow liquid to which dry ether was added. The pot was vigorously shaken and the ether solution decanted. This was repeated three times. The combined extracts were dried over anhydrous magnesium sulfate, filtered, and rotary evaporated to give a pale yellow liquid. Kugelrohr distillation at 65° (1.8 mm) afforded 2.3 g (70%) of a water-white liquid: IR (liquid film) cm-1 1750, 1725, 1275, 1230, 1200, 1175, 1130, 1060; NMR (CDCl3) delta 3.70 (3H, s), 3.93 (1H, t, J=8 Hz), 3.15 (2H, m), 2.13 (2H, m), 0.93 (9H, s).

reactant | methyl 2,4-dibromobutyrate | 0.02 mol, 5.20 g | BrC(C(=O)OC)CCBr | C5H8Br2O2
reactant | t-butylamine | 0.06 mol, 4.69 g | C(C)(C)(C)N | C4H11N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | N-tert-butyl-2-carbomethoxyazetidine | C(C)(C)(C)N1C(CC1)C(=O)OC | C9H17NO2
